US06627630B1
Production of 6-[4-(Diphenylmethoxy)piperidino][1,2,4]triazolo[1,5-b]pyridazine
4-(Diphenylmethoxy)piperidine (1.12 g) and 6-chloro[1,2,4]triazolo[1,5-b]pyridazine (558 mg) were dissolved in 1-butanol (25 ml), followed by addition of N-ethyldiisopropylamine (700 mg). The mixture was refluxed under heating for 17 hours. After being cooled, the mixture was concentrated under reduced pressure. Ice-water was added to the residue, followed by extraction with ethyl acetate. The extract was washed with an aqueous sodium chloride saturated solution, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with a mixture of hexane and ethyl acetate (1:3). Fractions containing the objective compound were collected and recrystallized from ethanol to yield the title compound (757 mg).

reactant | 4-(Diphenylmethoxy)piperidine | 1.12 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 6-chloro[1,2,4]triazolo[1,5-b]pyridazine | 558 mg | ClC=1C=CC=2N(N1)N=CN2 | C5H3ClN4
reactant | N-ethyldiisopropylamine | 700 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | 1-butanol | 25 ml | C(CCC)O | C4H10O
product | 6-[4-(Diphenylmethoxy)piperidino][1,2,4]triazolo[1,5-b]pyridazine | 757 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)C=1C=CC=2N(N1)N=CN2)C2=CC=CC=C2 | C23H23N5O
